US04246292
18 g Of the mixture of alkenes obtained by dehydration of dihydro-β-ionol as described in example 1 was dissolved in 150 ml of methanol and hydrogenated at atmospheric pressure using 0.5 g of a catalyst consisting of 5% Palladium on charcoal. Hydrogenation was stopped when the uptake of hydrogen markedly slowed down. A 1:1 mixture of 1,3,3-trimethyl-2-(but-1-yl)-cyclohex-1-ene and 1,3,3-trimethyl-2-(but-1-yl)-cyclohexane was obtained. This mixture was oxidized with tert.butyl chromate as described in example 1, yielding a mixture of the title compound and 1,3,3-trimethyl-2-(but-1-yl)-cyclohexane. The mixture was fractionated yielding 6.75 g of the title compound boiling at 90°-92° C. (4 Torr).

reactant | hydrogen | [H][H] | H2
reactant | 1,3,3-trimethyl-2-(but-1-yl)-cyclohex-1-ene | CC1=C(C(CCC1)(C)C)CCCC | C13H24
solvent | methanol | 150 ml | CO | CH4O
catalyst | Palladium on charcoal | [Pd] | Pd
product | 1,3,3-trimethyl-2-(but-1-yl)-cyclohexane | CC1C(C(CCC1)(C)C)CCCC | C13H26
